US06998068B2
Synthesis of 5-(2-tetracenyl)-2,2′-bithiophene (Tet-T2)
Pd2(dba)3 (21 mg, 0.023 mmol, 1.5%), CsF (511 mg, 3.37 mmol, 2.2 eq), dioxane (25 mL), 2-chlorotetracene (403 mg, 1.53 mmol), 5-tri-n-butylstannyl-2,2′-bithiophene (766 mg, 1.68 mmol), P(t-Bu)3 (0.26 mL, 0.090 mmol, 6%) were mixed, bubbled with N2 via cannula for 30 min, and then heated at 100° C. for 16 h. An additional charge of 10 mg of Pd[P(t-Bu)3]2 and 140 mg 5-tri-n-butylstannyl-2,2′-bithiophene and heated at 100° C. for another 24 h. Cooled the mixture and poured on a glass filter frit (10–15 μm pores) and washed the reddish crude with Et2O, water, and air-dried. Gradient sublimation at a source temperature of 250–270° C. afforded 443 mg (74%, on 2-chlorotetracene) of bright orange-red product. DSC: 341° C. (mp, ΔH=87 Jg−1). EIMS: 392 ([M]+, 100%), 196 ([M]2+, 20%). Anal. Calcd. for C26H16S2: C, 79.6; H, 4.1. Found: C, 80.0; H, 4.34.

reactant | CsF | 3.37 mmol, 511 mg, 2.2 eq | [F-].[Cs+]
reactant | 2-chlorotetracene | 1.53 mmol, 403 mg | ClC1=CC2=CC3=CC4=CC=CC=C4C=C3C=C2C=C1 | C18H11Cl
reactant | 5-tri-n-butylstannyl-2,2′-bithiophene | 1.68 mmol, 766 mg | C(CCC)[Sn](C1=CC=C(S1)C=1SC=CC1)(CCCC)CCCC
reactant | P(t-Bu)3 | 0.090 mmol, 0.26 mL | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
catalyst | Pd2(dba)3 | 0.023 mmol, 21 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 5-(2-tetracenyl)-2,2′-bithiophene | C1=C(C=CC2=CC3=CC4=CC=CC=C4C=C3C=C12)C1=CC=C(S1)C=1SC=CC1 | C26H16S2
